### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace): bounded point evaluation in an RKHS

### PR DESCRIPTION
**Pull request by gnahz04**
Adds `RKHS.norm_eval_le`, the element-wise bound `‖f x‖ ≤ ‖f‖ * √‖kernel H x x‖` on point evaluations in a reproducing kernel Hilbert space, complementing the existing matrix-level bound `norm_kernel_le`. It is stated directly on `f x` (like `continuous_eval`), so it does not depend on the explicit `eval` from #37666.

Discussed and named on Zulip: [#mathlib4 > RKHS bounded point evaluation](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/RKHS.20bounded.20point.20evaluation) (thanks to Hampus Nyberg, Amlal El Mahrouss, Tjeerd Jan Heeringa, Yaël Dillies).

🤖 Generated with [Claude Code](https://claude.com/claude-code)

---------

**AI disclosure.** I used Claude Code (Claude Opus 4.8) to draft and iterate the Lean proof against the current mathlib API. I work in kernel methods / RKHS, and have reviewed the statement and proof, understand the design choices, and can justify them to reviewers; the statement and naming were coordinated with maintainers on the Zulip thread above.

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 1]
```diff
@@ -138,6 +138,22 @@ lemma norm_kernel_le (x y) : ‖kernel H x y‖ ≤ √‖kernel H x x‖ * √
...
+lemma norm_eval_le (f : H) (x : X) : ‖f x‖ ≤ ‖f‖ * √‖kernel H x x‖ := by
+  have hk : ‖kerFun H x‖ = √‖kernel H x x‖ := norm_kerFun_eq_sqrt_norm_kernel H x
+  have hsq : ‖f x‖ ^ 2 ≤ ‖f‖ * ‖kerFun H x‖ * ‖f x‖ := by
+    have e : ⟪f x, f x⟫_𝕜 = ⟪f, kerFun H x (f x)⟫_𝕜 := (inner_kerFun x (f x) f).symm
+    calc ‖f x‖ ^ 2 = RCLike.re ⟪f x, f x⟫_𝕜 := by rw [inner_self_eq_norm_sq]
+      _ = RCLike.re ⟪f, kerFun H x (f x)⟫_𝕜 := by rw [e]
+      _ ≤ ‖⟪f, kerFun H x (f x)⟫_𝕜‖ := RCLike.re_le_norm _
+      _ ≤ ‖f‖ * ‖kerFun H x (f x)‖ := norm_inner_le_norm _ _
+      _ ≤ ‖f‖ * (‖kerFun H x‖ * ‖f x‖) := by gcongr; exact (kerFun H x).le_opNorm (f x)
+      _ = ‖f‖ * ‖kerFun H x‖ * ‖f x‖ := by ring
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Can you try using `grw` here?
```suggestion
    grw [your (in)equalities]
    ring
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 2]
```diff
@@ -138,6 +138,22 @@ lemma norm_kernel_le (x y) : ‖kernel H x y‖ ≤ √‖kernel H x x‖ * √
 lemma norm_kernel_sq_le (x y) : ‖kernel H x y‖ ^ 2 ≤ ‖kernel H x x‖ * ‖kernel H y y‖ := by
   grw [norm_kernel_le]; simp [mul_pow]
 
+variable {H} in
+/-- Bounded point evaluation: every element of a reproducing kernel Hilbert space is pointwise
+bounded by its norm times the square root of the diagonal of the kernel. -/
+lemma norm_eval_le (f : H) (x : X) : ‖f x‖ ≤ ‖f‖ * √‖kernel H x x‖ := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: The pointwise bound isn't uniform, so don't you think the phrasing in the docstring is a bit confusing?

**Comment by gnahz04** [comment]
Thanks @YaelDillies! Both addressed in d872fdc:

- **Proof:** replaced the `calc`/`nlinarith` block with the adjoint identity `f x = (kerFun H x).adjoint f` plus `grw` (using `le_opNorm` and `adjoint` being a norm isometry):
  ```lean
  lemma norm_eval_le (f : H) (x : X) : ‖f x‖ ≤ ‖f‖ * √‖kernel H x x‖ := by
    have hfx : f x = (kerFun H x).adjoint f := by
      rw [kerFun, ContinuousLinearMap.adjoint_adjoint]; rfl
    rw [hfx, ← norm_kerFun_eq_sqrt_norm_kernel, mul_comm]
    grw [(kerFun H x).adjoint.le_opNorm f, ContinuousLinearMap.adjoint.norm_map (kerFun H x)]
  ```
- **Docstring:** reworded so it no longer reads as a uniform bound — now "the evaluation of an element `f` … at a point `x` is bounded by `‖f‖` times the square root of the kernel diagonal `‖kernel H x x‖` at `x`."

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 3]
```diff
@@ -138,6 +138,15 @@ lemma norm_kernel_le (x y) : ‖kernel H x y‖ ≤ √‖kernel H x x‖ * √
 lemma norm_kernel_sq_le (x y) : ‖kernel H x y‖ ^ 2 ≤ ‖kernel H x x‖ * ‖kernel H y y‖ := by
   grw [norm_kernel_le]; simp [mul_pow]
 
+variable {H} in
+/-- The evaluation of an element `f` of a reproducing kernel Hilbert space at a point `x` is
+bounded by `‖f‖` times the square root of the kernel diagonal `‖kernel H x x‖` at `x`. -/
+lemma norm_eval_le (f : H) (x : X) : ‖f x‖ ≤ ‖f‖ * √‖kernel H x x‖ := by
+  have hfx : f x = (kerFun H x).adjoint f := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Can you turn this around and make this a lemma `adjoint_kerFun`?

**Comment by gnahz04** [comment]
Done in 3de8cd9 — extracted `adjoint_kerFun`:

```lean
@[simp]
lemma adjoint_kerFun (x : X) (f : H) : (kerFun H x).adjoint f = f x := by
  rw [kerFun, ContinuousLinearMap.adjoint_adjoint]; rfl
```

Placed it next to `kernel_apply` (which also unfolds `(kerFun H x).adjoint`), and `norm_eval_le` now uses it. I marked it `@[simp]` since it rewrites to the simpler `f x` and matches the neighbouring `kerFun_inner` / `inner_kerFun` — happy to drop the attribute if you'd rather keep it a plain lemma.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 4]
```diff
@@ -108,6 +108,12 @@ lemma kerFun_apply (y : X) (v : V) (x : X) : kerFun H y v x = kernel H x y v :=
 lemma kernel_apply (x y : X) : kernel H x y = (kerFun H x).adjoint ∘L kerFun H y := by
   simp [kerFun, kernel]
 
+variable {H} in
+/-- Point evaluation `f ↦ f x` is the adjoint of the kernel function `kerFun H x`. -/
+@[simp]
+lemma adjoint_kerFun (x : X) (f : H) : (kerFun H x).adjoint f = f x := by
+  rw [kerFun, ContinuousLinearMap.adjoint_adjoint]; rfl
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  simp [kerFun]
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 5]
```diff
@@ -138,6 +144,13 @@ lemma norm_kernel_le (x y) : ‖kernel H x y‖ ≤ √‖kernel H x x‖ * √
 lemma norm_kernel_sq_le (x y) : ‖kernel H x y‖ ^ 2 ≤ ‖kernel H x x‖ * ‖kernel H y y‖ := by
   grw [norm_kernel_le]; simp [mul_pow]
 
+variable {H} in
+/-- The evaluation of an element `f` of a reproducing kernel Hilbert space at a point `x` is
+bounded by `‖f‖` times the square root of the kernel diagonal `‖kernel H x x‖` at `x`. -/
+lemma norm_eval_le (f : H) (x : X) : ‖f x‖ ≤ ‖f‖ * √‖kernel H x x‖ := by
+  rw [← adjoint_kerFun x f, ← norm_kerFun_eq_sqrt_norm_kernel, mul_comm]
+  grw [(kerFun H x).adjoint.le_opNorm f, ContinuousLinearMap.adjoint.norm_map (kerFun H x)]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  grw [← adjoint_kerFun, le_opNorm, norm_map, norm_kerFun_eq_sqrt_norm_kernel, mul_comm]
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 6]
```diff
@@ -138,6 +144,12 @@ lemma norm_kernel_le (x y) : ‖kernel H x y‖ ≤ √‖kernel H x x‖ * √
 lemma norm_kernel_sq_le (x y) : ‖kernel H x y‖ ^ 2 ≤ ‖kernel H x x‖ * ‖kernel H y y‖ := by
   grw [norm_kernel_le]; simp [mul_pow]
 
+variable {H} in
+/-- The evaluation of an element `f` of a reproducing kernel Hilbert space at a point `x` is
+bounded by `‖f‖` times the square root of the kernel diagonal `‖kernel H x x‖` at `x`. -/
+lemma norm_eval_le (f : H) (x : X) : ‖f x‖ ≤ ‖f‖ * √‖kernel H x x‖ := by
```
Comment (ocfnash) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
lemma norm_apply_le (f : H) (x : X) : ‖f x‖ ≤ ‖f‖ * √‖kernel H x x‖ := by
```

**Review by ocfnash — APPROVED** [review]

**Comment by ocfnash** [comment]
Thanks!

bors merge
